US05498748
To a suspension of 1,5-dihydroxyanthraquinone (10 g, 41.6 mmole) and stannous chloride (45 g, 237 mmole) in glacial acetic acid (150 ml), conc. hydrochloric acid (90 ml) was added at 16°-20° C. The resulting mixture was stirred for 4 hours under reflux. After standing at room temperature overnight, the reaction mixture was cooled to 5° C. A precipitate was filtered, washed with H2O and dried to afford 8.0 g of 1,5-dihydroxyanthrone as dark brown needles having a m.p. of 231°-233° C.

reactant | 1,5-dihydroxyanthraquinone | 41.6 mmole, 10 g | OC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)O)=O | C14H8O4
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 90 ml | Cl | ClH
product | 1,5-dihydroxyanthrone | 8.0 g | OC1=CC=CC=2CC3=C(C=CC=C3C(C12)=O)O | C14H10O3
